US07612114B2
6-{2-{{4-[2-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)ethoxy]-3-fluorobenzyl}methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 2-chloro-1-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)ethanone (17 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (8.4 mg) was obtained.

reactant | pivalic acid 6-{2-[(3-fluoro-4-hydroxybenzoyl)methylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | FC=1C=C(C(=O)CNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=CC1O | C30H32FNO5
reactant | 2-chloro-1-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)ethanone | 17 mg | ClCC(=O)N1CCC2(OCCO2)CC1 | C9H14ClNO3
product | 6-{2-{{4-[2-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)ethoxy]-3-fluorobenzyl}methylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 8.4 mg | O1CCOC12CCN(CC2)CCOC2=C(C=C(CCNC1=C(C=CC(=C1)OC)C1CC=3C=CC(=CC3CC1)O)C=C2)F | C34H41FN2O5
